US04575507
B. 3',4'-dihydro-4'-hydroxyspiro[imidazolidine 4,1'(2'H)-naphthalene]2,5-dione
To a slurry of 14.3 g. (0.062 mole) of 3',4'-dihydrospiro[imidazolidine-4,1'(2'H)-naphthalene]2,4',5-trione in 250 ml. of methanol at 0° C. was added in small portions over a period of 15 minutes 4.8 g. (0.13 mole) of sodium borohydride, and the reaction mixture allowed to stir in the cold for 60 minutes. The reaction mixture was added to 250 ml. of 10% hydrochloric acid and 50 ml. of a brine solution. The product was extracted with ethyl acetate (5×50 ml.) and the extracts combined and washed with a 10% hydrochloric acid solution. The extracts were dried over magnesium sulfate and concentrated to give an off-white solid. Triturations with diethyl ether followed by filtration gave 4.5 g. (31.9% yield).

reactant | 3',4'-dihydrospiro[imidazolidine-4,1'(2'H)-naphthalene]2,4',5-trione | 0.062 mole | C12(CCC(C3=CC=CC=C13)=O)NC(NC2=O)=O | C12H10N2O3
reactant | methanol | CO | CH4O
reactant | sodium borohydride | 0.13 mole | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | brine | [Cl-].[Na+].O
product | 3',4'-dihydro-4'-hydroxyspiro[imidazolidine 4,1'(2'H)-naphthalene]2,5-dione | 31.9% yield | OC1CCC2(C3=CC=CC=C13)NC(NC2=O)=O | C12H12N2O3
